US07994203B2
Step 1: 1-(6-Methoxy-4-methyl-pyridin-3-yl)-propan-1-ol:
To a cooled (−10° C.) solution of iPrMgCl (2.0M in THF, 619 ul, 1.24 mmol, 0.5 eq) in THF (5 ml) at is added n-BuLi (2.5M in hexanes, 990 ul, 2.47 mmol, 1 eq) and the mixture stirred at this temperature for 15 mins. This mixture is treated with a solution of 5-bromo-2-methoxy-4-methyl-pyridine (500 mg, 2.47 mmol) in THF (5 ml) and allowed to stir at −10° C. for 30 mins. After this time, propionaldehyde (0.324 ml, 4.45 mmol, 1.8 eq) is added and the contents left stirring for 2 hrs. The reaction is quenched with acetic acid (500 ul). The mixture is partitioned between EtOAc (100 ml) and Na2CO3 (2M, 50 ml) and the organic layer is separated, washed successively with 2M Na2CO3, water and brine, dried over MgSO4, filtered, and evaporated to yield the title compound as a clear oil. The crude 1-(6-methoxy-4-methyl-pyridin-3-yl)-propan-1-ol is used without further purification. MS: m/z 182.1 [M+H]+.

reactant | iPrMgCl | 1.24 mmol, 2.0M, 619 ul, 0.5 eq | C(C)(C)[Mg]Cl
reactant | n-BuLi | 2.47 mmol, 2.5M, 990 ul, 1 eq | [Li]CCCC
reactant | 5-bromo-2-methoxy-4-methyl-pyridine | 2.47 mmol, 500 mg | BrC=1C(=CC(=NC1)OC)C | C7H8BrNO
reactant | propionaldehyde | 4.45 mmol, 0.324 ml, 1.8 eq | C(CC)=O | C3H6O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 1-(6-Methoxy-4-methyl-pyridin-3-yl)-propan-1-ol | COC1=CC(=C(C=N1)C(CC)O)C | C10H15NO2
